US06803378B2
Step 1: Preparation of (S)-(+)-2,2-Dimethyl-5-oxo-1,3-dioxolane-4-acetic Acid, tert-butyldiphenylsilyl ester (I):
A solution of (S)-(+)-2,2-dimethyl-5-oxo-1,3-dioxolane-4-acetic acid (2.08 g, 11.9 mmol), which was derived from L-malic acid by means known in the art, in dry dichloromethane (20 ml) was treated with triethylamine (1.83 ml, 13.1 mmol) followed by a solution of t-butylchlorodiphenylsilane (3.44 g, 12.5 mmol) in dichloromethane (5 ml) added dropwise over 5 minutes. After 3 hours at 22° C., the reaction mixture was diluted with toluene (250 ml) washed with water, saturated sodium bicarbonate, brine and dried over magnesium sulfate. Evaporation of the solvent under reduced pressure and chromatography of the residue on silica gel (4×12 cm) using a mixture of toluene and ethyl acetate (0-2%) as eluent gave 4.90 g (99%) of the title material as a clear oil. 1H NMR (400 MHz, CDCl3) δ: 1.13 (s, 9), 1.58 (s, 3), 3.05 (m, 2), 4.79 (dd, 1, J=4, 7), 7.4-7.8 (m, 10).

reactant | (S)-(+)-2,2-dimethyl-5-oxo-1,3-dioxolane-4-acetic acid | 11.9 mmol, 2.08 g | CC1(OC([C@@H](O1)CC(=O)O)=O)C | C7H10O5
reactant | L-malic acid | C([C@@H](O)CC(=O)O)(=O)O | C4H6O5
reactant | triethylamine | 13.1 mmol, 1.83 ml | C(C)N(CC)CC | C6H15N
reactant | t-butylchlorodiphenylsilane | 12.5 mmol, 3.44 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-(+)-2,2-Dimethyl-5-oxo-1,3-dioxolane-4-acetic Acid, tert-butyldiphenylsilyl ester | 4.90 g, 99% | CC1(OC([C@@H](O1)CC(=O)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O)C | C23H28O5Si
